US06977263B2
A mixture of N,N-bis-(tert-butoxycarbonyl)-3-[1-(3-ethynyl-benzoyl)-piperidin-4-yl]-benzylamine (0.24 g, 0.46 mmol), iodobenzene (95 mg, 0.46 mmol), dichlorobis(triphenylphosphine)palladium (II) (35 mg, 0.05 mmol), copper (I) iodide (26 mg, 0.14 mmol), triethylamine (0.57 ml, 4.1 mmol) and anhydrous dimethylformamide (8 ml) was stirred at ambient temperature under nitrogen for 18 hours. The solvent was removed under vacuum and the residue was partitioned between ethyl acetate (3 lots of 50 ml) and water (20 ml). The combined organic layers were washed with brine (50 ml), then dried over magnesium sulfate and then concentrated under vacuum. The residue was subjected to chromatography on silica gel eluting with a mixture of cyclohexane and ethyl acetate (3:2, v/v) to give N,N-bis-(tert-butoxycarbonyl)-3-[1-(3-phenylethynyl-benzoyl)-piperidin-4-yl]-benzylamine as a yellow oil (0.23 g). 1H NMR (CDCl3, 500 MHz): δ 7.58 (m, 4H), 7.40 (m, 5H), 7.25 (m, (m, 1H), 7.10 (m, 3H), 4.90 (br m, 1H), 4.79 (s, 2H), 3.80 (br m, 1H), 3.15 (br m, 1H), 2.84 (br, m, 1H), 2.78 (br m, 1H), 1.95 (m, 1H), 1.80 (m, 3H), 1.42 (s, 18H). MS(EI): 617(M++Na).

reactant | N,N-bis-(tert-butoxycarbonyl)-3-[1-(3-ethynyl-benzoyl)-piperidin-4-yl]-benzylamine | 0.46 mmol, 0.24 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC1=CC(=CC=C1)C1CCN(CC1)C(C1=CC(=CC=C1)C#C)=O | C31H38N2O5
reactant | iodobenzene | 0.46 mmol, 95 mg | IC1=CC=CC=C1 | C6H5I
reactant | triethylamine | 4.1 mmol, 0.57 ml | C(C)N(CC)CC | C6H15N
catalyst | dichlorobis(triphenylphosphine)palladium | 0.05 mmol, 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.14 mmol, 26 mg | [Cu]I
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | N,N-bis-(tert-butoxycarbonyl)-3-[1-(3-phenylethynyl-benzoyl)-piperidin-4-yl]-benzylamine | 0.23 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC1=CC(=CC=C1)C1CCN(CC1)C(C1=CC(=CC=C1)C#CC1=CC=CC=C1)=O | C37H42N2O5
